US09359381B2
Step 3: (1-Chloro-3-((4-methoxybenzyl)oxy) propan-2-yl) (trityl)sulfane
2-(((4-Methoxybenzyl)oxy)methyl)thiirane (496 mg, 2.359 mmol) was added to a solution of trityl chloride (598 mg, 2.144 mmol) in dichloromethane (10 mL). The mixture was stirred at room temperature for 16 hours, then evaporated under vacuum. Purification by chromatography on silica, eluting with 0-5% EtOAc/hexane, gave a crude material which was triturated with methanol to afford the title compound.

reactant | 2-(((4-Methoxybenzyl)oxy)methyl)thiirane | 2.359 mmol, 496 mg | COC1=CC=C(COCC2SC2)C=C1 | C11H14O2S
reactant | trityl chloride | 2.144 mmol, 598 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (1-Chloro-3-((4-methoxybenzyl)oxy) propan-2-yl) (trityl)sulfane | ClCC(COCC1=CC=C(C=C1)OC)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29ClO2S
